US04618610
In the same manner as Example 18-(1), there was produced a solution containing the diazonium salt derived from 6-(4-aminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (3.06 g). The solution was neutralized carefully with saturated aqueous sodium carbonate followed by addition of an ice-cooled solution of potassium cyanide (1.88 g) and cuprous cyanide (1.17 g) in water (12 ml). The mixture was stirred for an hour and the crystals which formed were recovered by filtration, washed with water, 1N aqueous sodium hydroxide, 1N hydrochloric acid and water in that order and dissolved in aqueous ethanol. The solution was treated with activated carbon and concentrated to dryness under reduced pressure. The residue was purified by silica gel (190 g) column chromatography [eluent: chloroform-methanol (20:1)] to give 6-(4-cyanophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (1.469 g).

reactant | 6-(4-aminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 3.06 g | NC1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C10H12N4O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium cyanide | 1.88 g | [C-]#N.[K+]
solvent | water | 12 ml | O | H2O
product | 6-(4-cyanophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 1.469 g | C(#N)C1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C11H10N4O
